US07005432B2
5-(4-Chloro-3-methoxy-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=315.3 (M+H+), was prepared from 2-(4-chloro-3-methoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 2-(4-chloro-3-methoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | ClC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)OC | C13H18BClO3
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(4-Chloro-3-methoxy-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.ClC1=C(C=C(C=C1)C=1C=C(N=NC1)CN1C(=NC=C1)C)OC | InChI=1S/C16H15ClN4O.ClH/c1-11-18-5-6-21(11)10-14-7-13(9-19-20-14)12-3-4-15(17)16(8-12)22-2;/h3-9H,10H2,1-2H3;1H
